US05753679
1.12 g (0.00453 mol) of 4-methyl-2-trifluoroaceta-mido-benzoic acid were dissolved in 23 ml of dimethylformamide, treated with 0.277 g (0.00227 mol) of dimethylaminopyridine and cooled to 00. 0.867 g (0.00453 mol) of 1-benzyl-4-hydroxy-piperidine and 0.955 g (0.005 mol) of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride were added and the mixture was stirred at 0° for 2 hrs. Thereafter, the mixture was warmed to room temperature. The mixture was stirred at room temperature for 48 hrs., the solvent was distilled off and the residue was taken up in ethyl acetate and washed with semi-sat. sodium bicarbonate solution. The organic phase was dried over sodium sulfate and concentrated and the residue was chromatographed on silica gel with ethyl acetate/hexane (1:2) as the eluent. 1.27 g (77%) of 1-benzyl-piperidin-4-yl 4-methyl-2-trifluoroacetamido-benzoate were obtained as a yellow oil. MS: me/e=421 (C22H24F3N2 O3 +).

reactant | 4-methyl-2-trifluoroaceta-mido-benzoic acid | 0.00453 mol, 1.12 g | CC1=CC(=C(C(=O)O)C=C1)NC(C(F)(F)F)=O | C10H8F3NO3
reactant | dimethylaminopyridine | 0.00227 mol, 0.277 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-benzyl-4-hydroxy-piperidine | 0.00453 mol, 0.867 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.005 mol, 0.955 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-piperidin-4-yl 4-methyl-2-trifluoroacetamido-benzoate | 1.27 g, 77% | CC1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)NC(C(F)(F)F)=O | C22H23F3N2O3
